US07842688B2
a) Benzyl 3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]-4-{4-[3-(1-phenylethoxy)propoxy]phenyl}piperidine-1-carboxylate
The mixture of 0.200 g of benzyl 4-(4-hydroxyphenyl)-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate, 0.157 g of 3-(1-phenylethoxy)propyl toluene-4-sulphonate and 0.173 g of caesium carbonate in 2.5 ml of acetonitrile is stirred at 80° C. over 2 hours. The reaction mixture is subsequently cooled, poured onto water (25 ml) and extracted with tert-butyl methyl ether (2×25 ml). The organic phases are washed with brine (1×25 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.19 (2:1 EtOAc-heptane); Rt=6.03.

reactant | benzyl 4-(4-hydroxyphenyl)-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate | 0.200 g | OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C33H38N2O6
reactant | 3-(1-phenylethoxy)propyl toluene-4-sulphonate | 0.157 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCOC(C)C1=CC=CC=C1)C | C18H22O4S
reactant | caesium carbonate | 0.173 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | Benzyl 3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]-4-{4-[3-(1-phenylethoxy)propoxy]phenyl}piperidine-1-carboxylate | COCCCN1C(CCC2=CC=C(C=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOC(C)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O | C44H52N2O7
